US08383635B2
8-bromo-4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one
4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one (500 mg, 1.676 mmol) was dissolved into N,N-Dimethylformamide (DMF) (8 mL) and NBS (298 mg, 1.676 mmol) was added. The reaction mixture was stirred at rt for 2 h. It was quenched with water (12 mL) and EtOAc (5 mL) was added. The mixture was filtered to collect the precipitate, which was further dried under high vacuum to give 470 mg of crude product (83% pure based on LC-MS).

reactant | 4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | 1.676 mmol, 500 mg | CC=1C=C(C=CC1)NC=1C2=C(N=C(N1)SC)C=CNC2=O | C15H14N4OS
reactant | NBS | 1.676 mmol, 298 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | N,N-Dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 8-bromo-4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | 470 mg, 83% | BrC1=CNC(C2=C1N=C(N=C2NC2=CC(=CC=C2)C)SC)=O | C15H13BrN4OS
